US05840732
i) Synthesis of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione
To a solution of 1.25 g (4.32 mmol) of 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione and 0.39 ml (4.32 mmol) of 1-butanal in 20 ml of ethanol, 0.036 ml (0.43 mmol) of pyrrolidine was added at 60° C., followed by refluxing for 19 hours (1 and 2 hours later, 0.39 ml (4.32 mmol) was further added; 3 hours later, 0.39 ml (4.32 mmol) of 1-butanal and 0.036 ml (0.43 mmol) of pyrrolidine were further added). After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with purified water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/4), after which the solvent was distilled off, to yield 0.17 g (11.5%, yellow oily substance) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 4.32 mmol, 1.25 g | N=1C=CN2C1C(=CC=C2)OCCCCN2C(SCC2=O)=O | C14H15N3O3S
reactant | 1-butanal | 4.32 mmol, 0.39 ml | C(CCC)=O | C4H8O
reactant | pyrrolidine | 0.43 mmol, 0.036 ml | N1CCCC1 | C4H9N
reactant | 1-butanal | 4.32 mmol, 0.39 ml | C(CCC)=O | C4H8O
reactant | pyrrolidine | 0.43 mmol, 0.036 ml | N1CCCC1 | C4H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C18H21N3O3S
